US04117128
2-[4-(3-Diethylaminopropoxy)phenylsulfonyl]-3-phenylbenzofuran
Reaction of 2-(4-hydroxyphenylsulfonyl)-3-phenylbenzofuran with 3-diethylaminopropyl chloride according to the procedure of Example 1 gives the title compound.

reactant | 2-(4-hydroxyphenylsulfonyl)-3-phenylbenzofuran | OC1=CC=C(C=C1)S(=O)(=O)C=1OC2=C(C1C1=CC=CC=C1)C=CC=C2 | C20H14O4S
reactant | 3-diethylaminopropyl chloride | C(C)N(CCCCl)CC | C7H16ClN
product | 2-[4-(3-Diethylaminopropoxy)phenylsulfonyl]-3-phenylbenzofuran | C(C)N(CCCOC1=CC=C(C=C1)S(=O)(=O)C=1OC2=C(C1C1=CC=CC=C1)C=CC=C2)CC | C27H29NO4S
